US07566724B2
Under an argon atmosphere, phosphorus oxychloride (2 ml) was added to 4,6-dimethyl-2-hydroxypyrimidine (400 mg), and the resulting mixture was stirred for 1 hour while heating the mixture to reflux. The reaction solution was cooled to room temperature, and the cooled solution was added in small portions to water. After adding sodium hydrogen carbonate in small portions to the resulting mixture to neutralize it, the mixture was extracted with ethyl acetate. Organic layer was washed twice with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated to obtain 2-chloro-4,6-dimethylpyrimidine (350 mg). (2) In the same manner as in Reference Example 8, 4-iodophenol (223 mg) and 2-chloro-4,6-dimethylpyrimidine (157 mg) were reacted by using sodium hydride to obtain 2-(4-iodophenoxy)-4,6-dimethylpyrimidine (226 mg).

reactant | 4-iodophenol | 223 mg | IC1=CC=C(C=C1)O | C6H5IO
reactant | 2-chloro-4,6-dimethylpyrimidine | 157 mg | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | sodium hydride | [H-].[Na+]
product | 2-(4-iodophenoxy)-4,6-dimethylpyrimidine | 226 mg | IC1=CC=C(OC2=NC(=CC(=N2)C)C)C=C1 | C12H11IN2O
